US07750002B2
Amine preparation: to pyrrolidine (390 uL) in dry THF (4 mL) at 0° C. was added nBuLi (1.86 ml) The reaction mixture was stirred for 5 minutes and then 4-(1-ethoxycarbonyl-1-methyl-ethyl)-piperazine-1-carboxylic acid tert-butyl ester (700 mg) in THF (5 mL) was added. The reaction mixture was stirred at room temperature for 24 h and then quenched with aqueous ammonium chloride, extracted into DCM, washed with water, dried (MgSO4) and the solvent removed in vacuo to yield 4-(1,1-dimethyl-2-oxo-2-pyrrolidin-1-yl-ethyl)-piperazine-1-carboxylic acid tert-butyl ester (745 mg). Removal of the BOC group with HCl yielded the desired compound, which was isolated as the hydrochloride salt.

reactant | pyrrolidine | 390 uL | N1CCCC1 | C4H9N
reactant | nBuLi | 1.86 ml | [Li]CCCC
reactant | 4-(1-ethoxycarbonyl-1-methyl-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | 700 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C)(C)C(=O)OCC | C15H28N2O4
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(1,1-dimethyl-2-oxo-2-pyrrolidin-1-yl-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | 745 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C(N1CCCC1)=O)(C)C | C17H31N3O3
